US05155116
EXAMPLE 7: 3-[2-(METHYLAMINO)ETHYL]-3H-OXAZOLO[4,5-b]PYRIDIN-2-ONE
In a 1,000-cm3 ground-necked flask, 0.02 mol of 3-[2-(N-methyl-N-benzylamino)ethyl]-3H-oxazolo[4,5-b]pyridin-2-one is dissolved in 250 cm3 of methanol. 0.2 g of palladinized charcoal is introduced and the mixture is stirred under a hydrogen atmosphere at room temperature and atmospheric pressure. After absorption of the theoretical quantity of hydrogen, the reaction medium is filtered. The filtrate is concentrated on a water bath under vacuum and acidified with a stream of gaseous hydrochloric acid. The precipitate obtained is drained, dried and recrystallized.

reactant | 3-[2-(N-methyl-N-benzylamino)ethyl]-3H-oxazolo[4,5-b]pyridin-2-one | 0.02 mol | CN(CC1=CC=CC=C1)CCN1C(OC=2C1=NC=CC2)=O | C16H17N3O2
reactant | charcoal | 0.2 g | C | CH4
solvent | methanol | 250 cm3 | CO | CH4O
product | 3-[2-(METHYLAMINO)ETHYL]-3H-OXAZOLO[4,5-b]PYRIDIN-2-ONE | CNCCN1C(OC=2C1=NC=CC2)=O | C9H11N3O2
